US07875630B2
Step 3a—Preparation of tropine-3-xanthate
Tropine-3-mesylate (243.6 g, 1.11 mol) and sodium ethylxanthate (245.1 g, 1.70 mol) were added to stirred toluene (1.25 L) at 36° C. under nitrogen. The mixture was reheated to 35-37° C. (from 30° C.) where it was maintained overnight (˜18 h). The oilbath was removed and water (500 mL) added. After 2 h stirring the mixture was filtered and the phases separated. The toluene phase was washed with deionised water (1×500 mL, 1×300 mL). The yield was found to be 192.36 g, 70.6%, based on 14.42% w/w in solution, by LC analysis against a reference standard. The solution was stored at 4° C. prior to use in Step 4a.

reactant | Tropine-3-mesylate | 1.11 mol, 243.6 g | CN1C2CCC1CC(C2)OS(=O)(=O)C | C9H17NO3S
reactant | sodium ethylxanthate | 1.70 mol, 245.1 g | C(C)OC(=S)[S-].[Na+]
solvent | toluene | 1.25 L | C1(=CC=CC=C1)C | C7H8
product | tropine-3-xanthate | CN1[C@@H]2CC[C@H]1CC(C2)SC(=O)S | C9H15NOS2
